datasets/10k_Mayr_OG.csv
SMILES Labelled
"[CH:10]1=[C:11]([O-:12])[NH:82][C:73](=[S:74])[NH:82][C:61]1=[O:62].[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2:20][CH:10]1[C:11](=[O:12])[NH:82][C:73](=[S:74])[NH:82][C:61]1=[O:62])[Co-3:42]32(C#[O+])(C#[O+])C#[O+] 10,11=10,20;12=11,12"
"N#C/[CH:20]=[CH:21]/[C:22]#[N:23].[S-:10][C:61]#[N:62]>>N#C[CH:20]([S:10][C:61]#[N:62])[CH:21]=[C:22]=[N-:23] 10=20;20,21=21,22;22,23=23"
"C1=CC=C(C[N+:23](CC2=CC=CC=C2)=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1.[H:10][CH:11]1[CH:12]=[CH:13][CH2:64][CH:63]=[CH:62]1>>C1=CC=C(C[N:23](CC2=CC=CC=C2)[CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1.[CH:11]1=[CH:12][CH+:13][CH2:64][CH:63]=[CH:62]1 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23].C[Si:73](C)(C)[O:12][C:11]1=[CH:10]CCC[O:63]1>>CC[O:33][C:22](=[C:21](C)[CH2:20][CH:10]1CCC[O:63][C:11]1=[O+:12][Si:73](C)(C)C)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:71](=[O:72])[N-:10][C:61]1=[O:62].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]23CCC(CC2)CC3)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[C:61](=[O:62])CC[C:71]2=[O:72])[C:21](C[N+]23CCC(CC2)CC3)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10=20;20,21=21,22;22,23=23"
"C[CH+:20][C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28.[H][N:10]=[C:11](C(F)(F)F)[O-:12]>>[H][N:10]([C:11](C(F)(F)F)=[O:12])[CH:20](C)[C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28 10,11=10,20;12=11,12"
CC[O:82][C:71]([C-:10](C)[C:61](=[O:62])[O:92]CC)=[O:72].C[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CC[O:82][C:71]([C:10](C)([CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:61](=[O:62])[O:92]CC)=[O:72] 10=20
"C[Si:63]1(C)CC[CH:11]([H:10])[CH2:62]1.Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>C[Si:63]1(C)CC[CH+:11][CH2:62]1.Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1.[H:10][F:20] 10,11=10,20;20,21=21"
"C1C[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCO1.CCCCCC[SiH2:11][H:10]>>C1C[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCO1.CCCCCC[SiH2+:11] 10,11=10,20;20,21=21,22;22,23=23"
"C[C:61]1=[N:10][CH:64]=[C:63](C)[NH:62]1.Cl[C:20]1=[CH:21][C:22](=[O:23])[C:30](Cl)=[CH:31][C:32]1=[O:33]>>C[C:61]1=[N+:10]([C:20]2(Cl)[CH:21]=[C:22]([O-:23])[C:30](Cl)=[CH:31][C:32]2=[O:33])[CH:64]=[C:63](C)[NH:62]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1.C1CC[C:20](=[O:21])CC1>>C1=CC=C([CH:10]([C:11](=[N+:12]2CCCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[C:20]2([O-:21])CCCCC2)C=C1 10,11=10,20;12=11,12;20,21=21"
"CC[O:92][C:61]([CH-:10][C:71]1=[CH:72][C:73](Cl)=[CH:74][CH:83]=[CH:82]1)=[O:62].C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>CC[O:92][C:61]([CH:10]([CH:20]([C:21]1=[C:22]([O-:23])[N:51](C)C(=S)[N:52](C)[C:32]1=[O:33])[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[C:71]1=[CH:72][C:73](Cl)=[CH:74][CH:83]=[CH:82]1)=[O:62] 10=20;20,21=21,22;22,23=23"
CC1=CC=C([P:10](C2=CC=C(C)C=C2C)C2=CC=C(C)C=C2C)C(C)=C1.Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>CC1=CC=C([P+:10](C2=CC=C(C)C=C2C)(C2=CC=C(C)C=C2C)[C:20]([C:31]2=[CH:32][C:33](Cl)=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)C(C)=C1 10=20
"CC(C)=[N:10]CC1=CC=CC=C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([N+:10](CC1=CC=CC=C1)=C(C)C)[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"CC1(C)[O:62][C:91](=[O:92])[C-:10](CC2=CC=C([N+](=O)[O-])C=C2)[C:72](=[O:73])[O:83]1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]23CCC(CC2)CC3)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]2(CC3=CC=C([N+](=O)[O-])C=C3)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])[C:21](C[N+]23CCC(CC2)CC3)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10=20;20,21=21,22;22,23=23"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:22](=[O:23])[O:39]1.FC(F)(F)[C:74]1=[CH:73][CH:72]=[C:71]([CH-:10][C:61]#[N:62])[CH:84]=[CH:85]1>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([CH:10]([C:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74](C(F)(F)F)[CH:85]=[CH:84]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[C:22]([O-:23])[O:39]1 10=20;20,21=21,22;22,23=23"
